US09102591B2
2-chloro-6-fluoro-N-(2-(2-methylpyrimidin-5-yl)-2-(pyridin-4-yl)ethyl)benz amide
From 2-chloro-6-fluorobenzoic acid and 2-(2-methylpyrimidin-5-yl)-2-(pyridin-4-yl)ethanamine. LCMS (MH+): m/z=371.1, tR (minutes, Method F)=1.65

reactant | 2-chloro-6-fluorobenzoic acid | ClC1=C(C(=O)O)C(=CC=C1)F | C7H4ClFO2
reactant | 2-(2-methylpyrimidin-5-yl)-2-(pyridin-4-yl)ethanamine | CC1=NC=C(C=N1)C(CN)C1=CC=NC=C1 | C12H14N4
product | 2-chloro-6-fluoro-N-(2-(2-methylpyrimidin-5-yl)-2-(pyridin-4-yl)ethyl)benz amide | ClC1=C(C(=O)NCC(C2=CC=NC=C2)C=2C=NC(=NC2)C)C(=CC=C1)F | C19H16ClFN4O
